US08030305B2
(2-Amino-benzothiazol-6-yl)-acetic acid ethyl ester
A solution of (2-amino-benzothiazol-6-yl)-acetic acid (0.61 mmol, as prepared by Meyer et al. in J. Med. Chem. 1997, 40, 1060) in absolute ethanol (10 mL) was treated with 3 drops of concentrated H2SO4 and ca. 1 g of dry 4A molecular sieves, and heated to reflux for 3 d. The reaction was concentrated to dryness in vacuo, partitioned between CH2Cl2 and saturated aqueous NaHCO3, filtered, and phases separated. The aqueous layer was extracted with CH2Cl2, and the combined organic layers were washed with water and brine, dried over Na2SO4, filtered, and the filtrate concentrated in vacuo giving the title compound as a yellow solid. 1H NMR (CDCl3) δ 7.50 (1H, m), 7.41 (1H, d, J=8.3 Hz), 7.20 (1H, dd, J=8.2 Hz, 1.9 Hz), 4.15 (2H, q, J=7.2 Hz), 3.65 (2H, s), 3.42 (4H, s [NH2+H2O]), 1.26 (3H, t, J=7.1 Hz). ESI-MS (m/z): Calcd for C11H12N2O2S: 236.1; found 237.1 (M+H).

reactant | (2-amino-benzothiazol-6-yl)-acetic acid | 0.61 mmol | NC=1SC2=C(N1)C=CC(=C2)CC(=O)O | C9H8N2O2S
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | H2SO4 | 3 drops | OS(=O)(=O)O | H2O4S
product | (2-Amino-benzothiazol-6-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC2=C(N=C(S2)N)C=C1)=O | C11H12N2O2S
